US08431586B2
Step 2: 4-{[(1S,2R)-2-(ethanimidoylamino)cyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide dihydrochloride
To a solution of 391 mg of 4-{[(1S,2R)-2-(ethanimidoylamino)cyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide in 5 ml of ethyl acetate, 3 ml of a 4 N hydrogen chloride-ethyl acetate solution was added, and the mixture was stirred for 10 minutes. Then, to the reaction solution, 10 ml of diethyl ether was added, and the deposited substance was collected by filtration, washed with diethyl ether and dried under reduced pressure, whereby 405 mg of a desired compound was obtained as a white powder.

reactant | 4-{[(1S,2R)-2-(ethanimidoylamino)cyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide | 391 mg | C(C)(=N)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NCCOC | C21H30N6O2
reactant | hydrogen chloride-ethyl acetate | 4 N | C(C)(=O)OCC.Cl
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-{[(1S,2R)-2-(ethanimidoylamino)cyclohexyl]amino}-N-(2-methoxyethyl)-6-methylquinazolin-2-carboxamide dihydrochloride | 405 mg | Cl.Cl.C(C)(=N)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)C)C(=O)NCCOC | InChI=1S/C21H30N6O2.2ClH/c1-13-8-9-16-15(12-13)19(27-20(25-16)21(28)23-10-11-29-3)26-18-7-5-4-6-17(18)24-14(2)22;;/h8-9,12,17-18H,4-7,10-11H2,1-3H3,(H2,22,24)(H,23,28)(H,25,26,27);2*1H/t17-,18+;;/m1../s1
